US06599917B1
b) 6-Chloro-3-benzoyl-2-methoxypyridine
36.0 g of manganese(IV) oxide was added to a solution of 3.7 g of 6-chloro-3-(α-hydroxybenzyl)-2-methoxypyridine in 80 ml of tetrahydrofuran, followed by stirring at room temperature for 2 hours. Insoluble matters were filtered off and then the solvent was evaporated, to give 3.6 g of the title compound.

reactant | 6-chloro-3-(α-hydroxybenzyl)-2-methoxypyridine | 3.7 g | ClC1=CC=C(C(=N1)OC)C(C1=CC=CC=C1)O | C13H12ClNO2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | manganese(IV) oxide | 36.0 g | [O-2].[Mn+4].[O-2]
product | 6-Chloro-3-benzoyl-2-methoxypyridine | 3.6 g | ClC1=CC=C(C(=N1)OC)C(C1=CC=CC=C1)=O | C13H10ClNO2
